### PR TITLE
[Merged by Bors] - chore: adapt to multiple goal linter 1

### PR DESCRIPTION
**Pull request by adomani**
A PR accompanying #12339.

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/linting.20against.20.22multi-goal.20proofs.22)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/Abs.lean [hunk 1]
```diff
@@ -342,7 +342,7 @@ variable [LinearOrderedCommGroup α] {a b : α}
   obtain ha | ha := le_or_lt 1 a <;> obtain hb | hb := le_or_lt 1 b
   · simp [ha, hb, mabs_of_one_le, one_le_mul ha hb]
   · exact (lt_irrefl (1 : α) <| ha.trans_lt <| hab.trans_lt hb).elim
-  any_goals simp [ha.le, hb.le, mabs_of_le_one, mul_le_one', mul_comm]
+  on_goal 2 => simp [ha.le, hb.le, mabs_of_le_one, mul_le_one', mul_comm]
```
Comment (grunweg) [inline Mathlib/Algebra/Order/Group/Abs.lean:345]: On its own merits (i.e., ignoring the multi-goal linter), I'm not sure if this change is an improvement.

File: Mathlib/Data/Int/Bitwise.lean [hunk 2]
```diff
@@ -539,7 +539,7 @@ theorem shiftLeft_eq_mul_pow : ∀ (m : ℤ) (n : ℕ), m <<< (n : ℤ) = m * (2
 theorem shiftRight_eq_div_pow : ∀ (m : ℤ) (n : ℕ), m >>> (n : ℤ) = m / (2 ^ n : ℕ)
   | (m : ℕ), n => by rw [shiftRight_coe_nat, Nat.shiftRight_eq_div_pow _ _]; simp
   | -[m+1], n => by
-    rw [shiftRight_negSucc, negSucc_ediv, Nat.shiftRight_eq_div_pow]; rfl
+    rw [shiftRight_negSucc, negSucc_ediv, Nat.shiftRight_eq_div_pow]; · rfl
```
Comment (grunweg) [inline Mathlib/Data/Int/Bitwise.lean:542]: I'd like to better understand where the `rfl` goal comes from: is it a side goal of an rw, or a second independent goal?

File: Mathlib/Data/List/Permutation.lean [hunk 3]
```diff
@@ -95,15 +95,15 @@ theorem map_permutationsAux2' {α β α' β'} (g : α → α') (g' : β → β')
...
+    · refine' ⟨_, rfl⟩
+      simp only [← map_cons, ← map_append]; apply H
     · intro a; apply H
 #align list.map_permutations_aux2' List.map_permutationsAux2'
 
 /-- The `f` argument to `permutationsAux2` when `r = []` can be eliminated. -/
 theorem map_permutationsAux2 (t : α) (ts : List α) (ys : List α) (f : List α → β) :
     (permutationsAux2 t ts [] ys id).2.map f = (permutationsAux2 t ts [] ys f).2 := by
-  rw [map_permutationsAux2' id, map_id, map_id]; rfl
+  rw [map_permutationsAux2' id, map_id, map_id]; · rfl
```
Comment (grunweg) [inline Mathlib/Data/List/Permutation.lean:106]: Similarly this `rfl`: a side goal or not?

File: Mathlib/Data/List/Zip.lean [hunk 4]
```diff
@@ -264,8 +264,8 @@ theorem get?_zip_with (f : α → β → γ) (l₁ : List α) (l₂ : List β) (
   induction' l₁ with head tail generalizing l₂ i
   · rw [zipWith] <;> simp
   · cases l₂
-    simp only [zipWith, Seq.seq, Functor.map, get?, Option.map_none']
-    · cases (head :: tail).get? i <;> rfl
+    · simp only [zipWith, Seq.seq, Functor.map, get?, Option.map_none']
```
Comment (grunweg) [inline Mathlib/Data/List/Zip.lean:267]: Good find!

File: Mathlib/Data/Nat/WithBot.lean [hunk 5]
```diff
@@ -26,35 +26,35 @@ instance : WellFoundedRelation (WithBot ℕ) where
 
 theorem add_eq_zero_iff {n m : WithBot ℕ} : n + m = 0 ↔ n = 0 ∧ m = 0 := by
   rcases n, m with ⟨_ | _, _ | _⟩
-  any_goals (exact ⟨fun h => Option.noConfusion h, fun h => Option.noConfusion h.1⟩)
-  exact ⟨fun h => Option.noConfusion h, fun h => Option.noConfusion h.2⟩
-  repeat' erw [WithBot.coe_eq_coe]
-  exact add_eq_zero_iff' (zero_le _) (zero_le _)
+  repeat (· exact ⟨fun h => Option.noConfusion h, fun h => Option.noConfusion h.1⟩)
```
Comment (grunweg) [inline Mathlib/Data/Nat/WithBot.lean:29]: I'm on the fence if the `any_goals` => `repeat` change is better.

**Review by grunweg — COMMENTED** [review]
You didn't mark this ready for review yet. I still decided to leave a few comments; hope they helpful.

To my eye, most of these look like clear improvements that should be uncontroversial. I commented on other that might require more thought or where follow-up golfing is possible.

File: Mathlib/Data/Seq/Parallel.lean [hunk 6]
```diff
@@ -162,8 +162,8 @@ theorem terminates_parallel {S : WSeq (Computation α)} {c} (h : c ∈ S) [T : T
       infer_instance
     · have C : corec parallel.aux1 (l, S) = _ := by
         apply destruct_eq_think
-        simp only [corec_eq, rmap, parallel.aux1._eq_1]
-        rw [h]
+        · simp only [corec_eq, rmap, parallel.aux1._eq_1]
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Data/Seq/Parallel.lean:165]: As above.

File: Mathlib/Data/Seq/Seq.lean [hunk 7]
```diff
@@ -401,9 +401,9 @@ theorem eq_of_bisim (bisim : IsBisimulation R) {s₁ s₂} (r : s₁ ~ s₂) : s
         rw [head_cons, head_cons, tail_cons, tail_cons]
         cases' this with h1 h2
         constructor
-        rw [h1]
-        exact h2
-  exact ⟨s₁, s₂, rfl, rfl, r⟩
+        · rw [h1]
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Data/Seq/Seq.lean:404]: Maybe, I was just interested in making a minimal set of changes to show the effect of a linter that I am testing out.  For this reason, I tried to make the changes as "syntactical" as possible.

File: Mathlib/AlgebraicGeometry/Gluing.lean [hunk 8]
```diff
@@ -129,7 +129,7 @@ def gluedScheme : Scheme := by
   intro x
   obtain ⟨i, y, rfl⟩ := D.toLocallyRingedSpaceGlueData.ι_jointly_surjective x
   refine' ⟨_, _ ≫ D.toLocallyRingedSpaceGlueData.toGlueData.ι i, _⟩
-  swap; exact (D.U i).affineCover.map y
+  swap; · exact (D.U i).affineCover.map y
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/AlgebraicGeometry/Gluing.lean:132]: Same as above: just "syntactical" changes.

File: Mathlib/Algebra/GroupPower/Order.lean [hunk 9]
```diff
@@ -436,7 +436,7 @@ protected lemma Even.add_pow_le (hn : ∃ k, 2 * k = n) :
         rw [Commute.mul_pow]; simp [Commute, SemiconjBy, two_mul, mul_two]
     _ ≤ 2 ^ n * (2 ^ (n - 1) * ((a ^ 2) ^ n + (b ^ 2) ^ n)) := mul_le_mul_of_nonneg_left
           (add_pow_le (sq_nonneg _) (sq_nonneg _) _) $ pow_nonneg (zero_le_two (α := R)) _
-    _ = _ := by simp only [← mul_assoc, ← pow_add, ← pow_mul]; cases n; rfl; simp [Nat.two_mul]
+    _ = _ := by simp only [← mul_assoc, ← pow_add, ← pow_mul]; cases n; (· rfl); simp [Nat.two_mul]
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Algebra/GroupPower/Order.lean:439]: Yes, just to be completely explicit: the `rfl` is solving the case `n = 0` and the parentheses limit the scope of the `·` to not extend beyond the first goal.

File: Mathlib/Data/Int/Bitwise.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Data/Int/Bitwise.lean:542]: `negSucc_ediv` creates a side-goal of `0 < ↑(2 ^ n)` and `rfl` closes the main goal (which is `-[m / 2 ^ n+1] = -(div ↑m ↑(2 ^ n) + 1)`).

File: Mathlib/Data/List/Permutation.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Data/List/Permutation.lean:106]: `map_permutationsAux2' id` creates 2 side-goals, each `map_id` creates one more and `rfl` closes the main goal.

File: Mathlib/Algebra/Order/BigOperators/Group/List.lean [hunk 10]
```diff
@@ -191,7 +191,9 @@ variable [CanonicallyOrderedCommMonoid M] {l : List M}
 
 @[to_additive] lemma prod_eq_one_iff : l.prod = 1 ↔ ∀ x ∈ l, x = (1 : M) :=
   ⟨all_one_of_le_one_le_of_prod_eq_one fun _ _ => one_le _, fun h => by
-    rw [List.eq_replicate.2 ⟨_, h⟩, prod_replicate, one_pow]; exact (length l); rfl⟩
+    rw [List.eq_replicate.2 ⟨_, h⟩, prod_replicate, one_pow]
+    · exact (length l)
+    · rfl⟩
```
Comment (rosborn) [inline Mathlib/Algebra/Order/BigOperators/Group/List.lean:196]:
```suggestion
    rw [List.eq_replicate.mpr ⟨rfl, h⟩, prod_replicate, one_pow]⟩
```

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 11]
```diff
@@ -129,7 +129,7 @@ theorem hasFDerivAt_integral_of_dominated_loc_of_lip' {F' : α → H →L[𝕜]
     exact ((hF_meas _ x_in).sub (hF_meas _ x₀_in)).sub (hF'_meas.apply_continuousLinearMap _)
   · refine mem_of_superset h_ball fun x hx ↦ ?_
     apply (h_diff.and h_lipsch).mono
-    rintro a ⟨-, ha_bound⟩
+    on_goal 1 => rintro a ⟨-, ha_bound⟩
```
Comment (rosborn) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:132]: I get why this was linted this way, but it seems unnecessary. The 2nd goal is just a bounding function waiting to get described by the next line.

File: Mathlib/Analysis/Complex/Polynomial.lean [hunk 12]
```diff
@@ -77,8 +77,8 @@ theorem card_complex_roots_eq_card_real_add_card_not_gal_inv (p : ℚ[X]) :
   rw [← Finset.card_image_of_injective _ Subtype.coe_injective, ←
     Finset.card_image_of_injective _ inj]
   let a : Finset ℂ := ?_
-  let b : Finset ℂ := ?_
-  let c : Finset ℂ := ?_
+  on_goal 1 => let b : Finset ℂ := ?_
+  on_goal 1 => let c : Finset ℂ := ?_
```
Comment (rosborn) [inline Mathlib/Analysis/Complex/Polynomial.lean:81]: Perhaps the linter shouldn't add `on_goal` when the additional goals are terms of `Type` and not `Prop`.

File: Mathlib/Computability/TMToPartrec.lean [hunk 13]
```diff
@@ -649,15 +649,15 @@ theorem cont_eval_fix {f k v} (fok : Code.Ok f) :
       obtain ⟨v'', h₁, h₂⟩ := this
       rw [reaches_eval] at h₂
       swap
-      exact ReflTransGen.single rfl
+      · exact ReflTransGen.single rfl
```
Comment (rosborn) [inline Mathlib/Computability/TMToPartrec.lean:652]: Could be `on_goal 2 => exact ReflTransGen.single rfl` removing the previous `swap`.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean (hunk 11 above)
Comment (adomani) [reply Mathlib/Analysis/Calculus/ParametricIntegral.lean:132]: I have been using `on_goal` sometimes as a place-holder for something where maybe the linter should be manually silenced.  I'll leave this comment visible, in case someone else wants to chime in.

File: Mathlib/Analysis/Complex/Polynomial.lean (hunk 12 above)
Comment (adomani) [reply Mathlib/Analysis/Complex/Polynomial.lean:81]: This is probably a good heuristic, though I would limit the use of this heuristic to theorems.  Again, I'll leave this up for further comments.

File: Mathlib/Computability/TMToPartrec.lean (hunk 13 above)
Comment (adomani) [reply Mathlib/Computability/TMToPartrec.lean:652]: I tried to recycle as much as possible the original syntax.  I would prefer this change to be a separate PR.

**Comment by adomani** [comment]
!bench

File: Mathlib/Data/List/Basic.lean [hunk 14]
```diff
@@ -820,11 +820,16 @@ theorem mem_of_mem_head? {x : α} {l : List α} (h : x ∈ l.head?) : x ∈ l :=
 
 @[simp]
 theorem head!_append [Inhabited α] (t : List α) {s : List α} (h : s ≠ []) :
-    head! (s ++ t) = head! s := by induction s; contradiction; rfl
+    head! (s ++ t) = head! s := by
+      induction s
+      · contradiction
+      · rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/Basic.lean:826]:
```suggestion
  induction s
  · contradiction
  · rfl
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by jcommelin** [comment]
bors d+
